US07514433B2
{3-[1-(3,5-Difluoro-benzoyl)-piperidin-3-yl]-1H-indol-6-yl}-(4-isopropyl-piperazin-1-yl)-methanone
A mixture of 0.02 g (0.56 mmol) (4-isopropyl-piperazin-1-yl)-(3-piperidin-3-yl-1H-indol-6-yl)-methanone, 0.01 g (0.06 mmol) 3,5-difluorobenzoic acid, 0.02 g (0.06 mmol) TBTU and 0.044 g (0.3 mmol) DIPEA in 0.8 mL DMF was stirred at room temperature for 16 h. The mixture was subjected to preparative HPLC purification on reversed phase eluting with a gradient formed from acetonitrile/water/NEt3. Evaporation of the product fractions yielded 16 mg (57%) of the title compounds as off-white foam. MS (m/e): 495.4 (MH+).

reactant | (4-isopropyl-piperazin-1-yl)-(3-piperidin-3-yl-1H-indol-6-yl)-methanone | 0.56 mmol, 0.02 g | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C2C(=CNC2=C1)C1CNCCC1 | C21H30N4O
reactant | 3,5-difluorobenzoic acid | 0.06 mmol, 0.01 g | FC=1C=C(C(=O)O)C=C(C1)F | C7H4F2O2
reactant | TBTU | 0.06 mmol, 0.02 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.3 mmol, 0.044 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | {3-[1-(3,5-Difluoro-benzoyl)-piperidin-3-yl]-1H-indol-6-yl}-(4-isopropyl-piperazin-1-yl)-methanone | 16 mg, 57% | FC=1C=C(C(=O)N2CC(CCC2)C2=CNC3=CC(=CC=C23)C(=O)N2CCN(CC2)C(C)C)C=C(C1)F | C28H32F2N4O2
